Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
___: Small bowel resection with anastomosis

 
History of Present Illness:
___ yo male with biopsy proven GIST in Jejunum in the setting of 
recent upper GI bleed complicated by hemorrhagic shock requiring 
4 units pRBCs now s/p proximal jejunal tumor resection and 
jejunojejunostomy
 
Past Medical History:
Prior history of GI bleeding as above
Hx of H.pylori s/p tx
HTN - not on meds
Hyperlipidemia - not on meds
 
 
Social History:
___
Family History:
No family history of GI malignancy.

 
Physical Exam:
Discharge Physical Exam:  
 VS:  97.9 PO 152 / 73 67 18 98% RA 
 GEN: AA&O x 3, NAD, calm, cooperative.  
 HEENT: (-)LAD, mucous membranes moist, trachea midline, EOMI  
 CHEST: Clear to auscultation bilaterally, (-) cyanosis.  
 ABDOMEN: soft, nontender, incisional staples c/d/i 
 EXTREMITIES: Warm, well perfused, no edema  
 
Pertinent Results:
___ 09:48AM BLOOD WBC-20.3*# RBC-1.89*# Hgb-4.6*# 
Hct-16.3*# MCV-86 MCH-24.3* MCHC-28.2* RDW-19.1* RDWSD-58.9* Plt 
___
___ 12:55PM BLOOD WBC-15.5* RBC-2.29* Hgb-6.0*# Hct-19.6* 
MCV-86 MCH-26.2 MCHC-30.6* RDW-17.1* RDWSD-53.0* Plt ___
___ 04:50PM BLOOD WBC-14.1* RBC-2.33* Hgb-6.4* Hct-20.2* 
MCV-87 MCH-27.5 MCHC-31.7* RDW-16.0* RDWSD-50.5* Plt ___
___ 08:56PM BLOOD WBC-12.9* RBC-2.98*# Hgb-8.3*# Hct-26.2*# 
MCV-88 MCH-27.9 MCHC-31.7* RDW-15.5 RDWSD-49.3* Plt ___
___ 04:58AM BLOOD WBC-20.9*# RBC-2.83* Hgb-8.1* Hct-24.8* 
MCV-88 MCH-28.6 MCHC-32.7 RDW-15.5 RDWSD-49.2* Plt ___
___ 07:19AM BLOOD WBC-14.2* RBC-2.89* Hgb-8.1* Hct-26.1* 
MCV-90 MCH-28.0 MCHC-31.0* RDW-15.7* RDWSD-51.5* Plt ___
___ 06:42AM BLOOD WBC-9.1 RBC-2.43* Hgb-6.8* Hct-21.4* 
MCV-88 MCH-28.0 MCHC-31.8* RDW-15.2 RDWSD-49.1* Plt ___
___ 04:50PM BLOOD WBC-9.4 RBC-2.59* Hgb-7.2* Hct-22.9* 
MCV-88 MCH-27.8 MCHC-31.4* RDW-15.1 RDWSD-48.7* Plt ___
___ 05:49AM BLOOD WBC-7.6 RBC-2.35* Hgb-6.7* Hct-20.7* 
MCV-88 MCH-28.5 MCHC-32.4 RDW-15.0 RDWSD-47.8* Plt ___
___ 05:52AM BLOOD WBC-7.4 RBC-2.84* Hgb-8.2* Hct-24.6* 
MCV-87 MCH-28.9 MCHC-33.3 RDW-14.6 RDWSD-45.3 Plt ___
___ 05:48AM BLOOD WBC-6.9 RBC-3.14* Hgb-8.5* Hct-27.6* 
MCV-88 MCH-27.1 MCHC-30.8* RDW-14.9 RDWSD-46.5* Plt ___
 
Brief Hospital Course:
The patient presented to the emergency department on ___ 
with 4 days of melena, found to be in hemorrhagic shock with a 
HCT of 16.3. He was transfused 4U pRBCs, resuscitated with 2L of 
crystalloid fluids and prepared to be taken to the OR for 
exploratory laparotomy, small bowel resection with resection of 
known jejunal gastrointestinal stromal tumor. Of note, the 
patient had presented one week prior to his presentation with 
melena and anemia. The patient was stabilized during his 
hospital stay and further plans were made to finish his work-up 
on an outpatient basis. There were no adverse events in the 
operating room; please see the operative note for details. 
Post-operatively the patient was taken to the PACU until stable 
and then transferred to the wards until stable to go home. 

#NEURO: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with dilaudid PCA 
and IV Tylenol. Eventually he was transitions to oral pain 
medications with adequate control of his pain. Pain was very 
well controlled.

#CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  

#PULMONARY: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization.  

#GI/GU/FEN: The patient had a foley placed intra-operatively, 
which was discontinued on POD1 with autonomous return of 
voiding. The patient continued to have melenic stools throughout 
his hospital stay. This was as expected, as he was noted 
intraoperatively to have a colon full of melenic stools. However 
the source of his bleeding was confirmed to be controlled with 
resection of his mass. The patient was initially managed with an 
NGT post-operatively. This was removed on POD1 and the patient 
was sequentially advanced to a regular diet over the course of 
the next few days without complication. The patient was 
tolerating a regular diet prior to discharge. 

#ID: The patient's fever curves were closely watched for signs 
of infection, of which there were none.  

#HEME: Patient received BID SQH for DVT prophylaxis, in addition 
to encouraging early ambulation and Venodyne compression 
devices. Post-operatively, the patient's hematocrits were 
followed s/p resection of his bleeding mass. On POD3, the 
patient experienced a fall in HCT from 26.1 to 21.4, however he 
remained asymptomatic. The fall in hematocrit was thought to be 
due to equilibration. On POD5 he experienced another drop from 
22.9 to 20.7 for which he was transfused one unit pRBCs. Over 
the course of the next two days, his hematocrit increased to 
27.6 and remained stable.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating his home 
tube feeds, as well as diet as above per oral, ambulating, 
voiding without assistance, and pain was well controlled.  The 
patient was discharged home without services. The patient 
received discharge teaching and follow-up instructions with 
understanding verbalized and agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 6 hours Disp 
#*90 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*30 Tablet Refills:*0
RX *oxycodone 5 mg 1 tablet(s) by mouth every 6 hours Disp #*20 
Tablet Refills:*0 
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bleeding gastrointestinal stromal tumor of proximal jejunum.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___ 3 DISCHARGE INSTRUCTIONS:

Dear Mr. ___,

It was a pleasure taking care of you here at ___ 
___. You were admitted to our hospital 
after undergoing small bowel resection with anastomosis for 
jejunal gastrointestinal stromal tumor. You have recovered from 
surgery and are now ready to be discharged home. Please follow 
the recommendations below to ensure a speedy and uneventful 
recovery. 
 
ACTIVITY:
- Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
- You may climb stairs. 
- You may go outside, but avoid traveling long distances until 
you see your surgeon at your next visit.
- Don't lift more than 10 lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.
- You may start some light exercise when you feel comfortable.
- You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
- Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
- You may resume sexual activity unless your doctor has told you 
otherwise.
 
HOW YOU MAY FEEL: 
- You may feel weak or "washed out" for 6 weeks. You might want 
to nap often. Simple tasks may exhaust you.
- You may have a sore throat because of a tube that was in your 
throat during surgery.
- You might have trouble concentrating or difficulty sleeping. 
You might feel somewhat depressed.
- You could have a poor appetite for a while. Food may seem 
unappealing.
- All of these feelings and reactions are normal and should go 
away in a short time. If they do not, tell your surgeon.
 
YOUR INCISION:
- Your incision may be slightly red around the edges. This is 
normal.
- If you have steri strips, do not remove them for 2 weeks. 
(These are the thin paper strips that are on your incision.) But 
if they fall off before that that's okay).
- You may gently wash away dried material around your incision.
- It is normal to feel a firm ridge along the incision. This 
will go away.
- Avoid direct sun exposure to the incision area.
- Do not use any ointments on the incision unless you were told 
otherwise.
- You may see a small amount of clear or light red fluid 
staining your dressing or clothes. If the staining is severe, 
please call your surgeon.
- You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
- Over the next ___ months, your incision will fade and become 
less prominent.
 
YOUR BOWELS:
- Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
- If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon.
- After some operations, diarrhea can occur. If you get 
diarrhea, don't take anti-diarrhea medicines. Drink plenty of 
fluitds and see if it goes away. If it does not go away, or is 
severe and you feel ill, please call your surgeon.
 
PAIN MANAGEMENT:
- It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
- Your pain should get better day by day. If you find the pain 
is getting worse instead of better, please contact your surgeon.
-You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directied. 
- Do not take it more frequently than prescribed. Do not take 
more medicine at one time than prescribed.
- Your pain medicine will work better if you take it before your 
pain gets too severe.
- Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
- If you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
- Remember to use your "cough pillow" for splinting when you 
cough or when you are doing your deep breathing exercises.
If you experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
- Take all the medicines you were on before the operation just 
as you did before, unless you have been told differently.
- If you have any questions about what medicine to take or not 
to take, please call your surgeon.

 
Followup Instructions:
___